US07820664B2
To a suspension of methyl 3,4-difluoro-2-(2-fluorophenylamino)-5-((trimethylsilyl)ethynyl)benzoate (1.20 g, 3.18 mmol) in 85% aqueous acetone (40 ml) were added HgSO4 (943 mg, 3.18 mmol) and H2SO4 (0.33 ml, 6.36 mmol). The reaction was heated at reflux for 24 h. The mixture was cooled to room temperature, concentrated, and diluted with EtOAc (100 ml). The organic solution was washed with H2O (50 ml), dried over Na2SO4 and concentrated. Silica gel chromatography (EtOAc:Hexanes=10:90) yielded 832 mg (81%) of methyl 5-acetyl-3,4-difluoro-2-(2-fluorophenylamino)benzoate as a white solid.

reactant | methyl 3,4-difluoro-2-(2-fluorophenylamino)-5-((trimethylsilyl)ethynyl)benzoate | 3.18 mmol, 1.20 g | FC=1C(=C(C(=O)OC)C=C(C1F)C#C[Si](C)(C)C)NC1=C(C=CC=C1)F | C19H18F3NO2Si
reactant | H2SO4 | 6.36 mmol, 0.33 ml | OS(=O)(=O)O | H2O4S
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | methyl 5-acetyl-3,4-difluoro-2-(2-fluorophenylamino)benzoate | 832 mg, 81% | C(C)(=O)C=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)F)F)F | C16H12F3NO3
